US06211199B1
22.1 Synthesis of 3-cyano-3-(4-methoxyphenyl)pentanedioic Acid Diethyl Ester
Combine 4-methoxyphenylacetonitrile (200 g, 1.36 mol) and tetrahydrofuran (500 mL). Cool to about −5° C. Add dropwise a solution of sodium bis(trimethylsilyl)amide (2900 mL, 1 M in tetrahydrofuran, 2.90 mol). When the addition is complete warm the reaction mixture to ambient temperature and allow to stir for 1 hour. Transfer the above solution via cannula into a cooled (−12° C.) solution of ethyl bromoacetate (459.9 g) in tetrahydrofuran (1800 mL) at such a rate that the temperature of the reaction mixture does not rise above about 15° C. Allow to stir at ambient temperature. After 18 hours, dilute with diethyl ether and extract with water, 10% hydrochloric acid solution, and saturated aqueous solution of sodium bicarbonate. Dry the organic layer over MgSO4, filter, and concentrate in vacuo to obtain a residue. Distill the residue by bulb-to-bulb distillation to give the title compound: bp; 175-185° C. at 1.0 mm Hg.

reactant | 4-methoxyphenylacetonitrile | 1.36 mol, 200 g | COC1=CC=C(C=C1)CC#N | C9H9NO
reactant | sodium bis(trimethylsilyl)amide | 2.90 mol, 1 M, 2900 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | ethyl bromoacetate | 459.9 g | BrCC(=O)OCC | C4H7BrO2
solvent | tetrahydrofuran | 1800 mL | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 500 mL | O1CCCC1 | C4H8O
product | 3-cyano-3-(4-methoxyphenyl)pentanedioic Acid Diethyl Ester | C(C)OC(CC(CC(=O)OCC)(C1=CC=C(C=C1)OC)C#N)=O | C17H21NO5
